US07449466B2
Production Example 28 was repeated except that 1-(3-chloro-4-methoxymethoxyphenyl)-4-phenethylpiperazine was replaced with 2-[4-(3-chloro-4-methoxymethoxyphenyl)piperazin-1-yl]-1-phenylethan-1-one (221 mg). Thus obtained crude product was purified on TLC (developer, chloroform: acetone=6:1) to provide 2-[4-(3-chloro-4-hydroxyphenyl)piperazin-1-yl]-1-phenylethan-1-one (26 mg).

reactant | 1-(3-chloro-4-methoxymethoxyphenyl)-4-phenethylpiperazine | ClC=1C=C(C=CC1OCOC)N1CCN(CC1)CCC1=CC=CC=C1 | C20H25ClN2O2
reactant | 2-[4-(3-chloro-4-methoxymethoxyphenyl)piperazin-1-yl]-1-phenylethan-1-one | 221 mg | ClC=1C=C(C=CC1OCOC)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | C20H23ClN2O3
product | 2-[4-(3-chloro-4-hydroxyphenyl)piperazin-1-yl]-1-phenylethan-1-one | 26 mg | ClC=1C=C(C=CC1O)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | C18H19ClN2O2
